USRE029828
1 -phenyl-3-(4-aminobenzamido)pyrrolidine
A suspension of 10 g. of 1-phenyl-3-(4-nitrobenzamido)pyrrolidine in 250 ml. of 95% ethanol containing 5% palladium on charcoal was shaken in a Paar hydrogenator in three atmospheres of hydrogen at room temperature. The reduction mixture was filtered and the filtrate concentrated to give 3.8 g. of crystalline product which melted at 213-216° C.

reactant | 1-phenyl-3-(4-nitrobenzamido)pyrrolidine | C1(=CC=CC=C1)N1CC(CC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H17N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
product | 1 -phenyl-3-(4-aminobenzamido)pyrrolidine | C1(=CC=CC=C1)N1CC(CC1)NC(C1=CC=C(C=C1)N)=O | C17H19N3O
